US09388189B2
(S)-5-Methyl-2-(1-((5-(3-(morpholinosulfonyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (200 mg, 0.34 mmol) was treated with (3-(morpholinosulfonyl)phenyl)boronic acid (140 mg, 0.52 mmol), tetrakis(triphenylphosphine)palladium(0) (195 mg, 0.5 mmol), aqueous solution 2M of sodium carbonate (260 μl, 0.5 mmol) and 5 ml N,N-dimethylformide as a solvent according to the method described in Preparation 186 but stirring at 100° C. overnight. The crude was purified using SP1® Purification System (hexane-ethyl acetate) to give 90 mg (58% yield) of the title compound. Purity 80%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.34 mmol, 200 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | (3-(morpholinosulfonyl)phenyl)boronic acid | 0.52 mmol, 140 mg | O1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H14BNO5S
reactant | sodium carbonate | 0.5 mmol, 2M, 260 μl | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 mmol, 195 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-5-Methyl-2-(1-((5-(3-(morpholinosulfonyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 90 mg, 58% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CC(=CC=C1)S(=O)(=O)N1CCOCC1)COCC[Si](C)(C)C | C37H44N8O5SSi
